US05506256
(2S)-2-[1-Hydroxy-2-(phenylsulfinyl)ethyl]-1-[N-(4-phenylbutyryl)-L-prolyl]pyrrolidine (1.07 g) was subjected to DMSO-DCC oxidation as in Example 1-D) to give 0.89 g of (2S)-1-[N-(4-phenylbutyryl)-L-prolyl]-2-[(phenylsulfinyl)acetyl]-pyrrolidine (See Table 2).

reactant | (2S)-2-[1-Hydroxy-2-(phenylsulfinyl)ethyl]-1-[N-(4-phenylbutyryl)-L-prolyl]pyrrolidine | 1.07 g | OC(CS(=O)C1=CC=CC=C1)[C@H]1N(CCC1)C([C@H]1N(CCC1)C(CCCC1=CC=CC=C1)=O)=O | C27H34N2O4S
reactant | DMSO DCC | CS(=O)C.C1CCC(CC1)N=C=NC2CCCCC2
product | (2S)-1-[N-(4-phenylbutyryl)-L-prolyl]-2-[(phenylsulfinyl)acetyl]-pyrrolidine | 0.89 g | C1(=CC=CC=C1)CCCC(=O)N1[C@H](C(=O)N2[C@@H](CCC2)C(CS(=O)C2=CC=CC=C2)=O)CCC1 | C27H32N2O4S
